US06054470
To a stirred solution of 5-trimethylsilylethynyl-4-methyl-3-nitro-2-pyridone (1.0 g, 2.7 mmol) in THF (10 mL) was added tetrabutylammoniun fluoride (1M in THF, 2 mL). After 30 minutes the mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel (40% ethyl acetate/hexane) gave 5-ethynyl-4-methyl-3-nitro-2-pyridone (0.18 g, 22%).

reactant | 5-trimethylsilylethynyl-4-methyl-3-nitro-2-pyridone | 2.7 mmol, 1.0 g | C[Si](C)(C)C#CC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C11H14N2O3Si
reactant | fluoride | 1M, 2 mL | [F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-ethynyl-4-methyl-3-nitro-2-pyridone | 0.18 g, 22% | C(#C)C=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C8H6N2O3
